US05420128
7-Hydroxy-6-methoxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine
To a tetrahydrofuran suspension of 480 mg of 60% sodium hydride, 2 ml of ethyl formate and 1.0 g of ethyl methoxyacetate were added under nitrogen atmosphere, and the mixture was stirred for 16 hours at room temperature. In succession, adding 1.0 g of 3-amino-4(4-phenylthiophenyl)pyrazole, the solution was stirred for 4 hours in reflux. After allowing to cool, water was added and the solution was neutralized with 10% hydrochloric acid. Removing water, ethyl acetate was added, and insoluble matter was filtered. The filtrate was washed in ethyl acetate and ether and dried, and the title compound was obtained (100 mg, 8%).

reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | ethyl formate | 2 ml | C(=O)OCC | C3H6O2
reactant | ethyl methoxyacetate | 1.0 g | COCC(=O)OCC | C5H10O3
reactant | 3-amino-4(4-phenylthiophenyl)pyrazole | 1.0 g | NC1=NNC=C1C1=CC=C(C=C1)SC1=CC=CC=C1 | C15H13N3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Hydroxy-6-methoxy-3-(4-phenylthiophenyl)pyrazolo[1,5-a]pyrimidine | OC1=C(C=NC=2N1N=CC2C2=CC=C(C=C2)SC2=CC=CC=C2)OC | C19H15N3O2S
